US06765009B2
A mixture of [4-(2-oxo-2H-pyran-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester (0.287 g) and HCl (2 mL of a 4N solution in dioxane) in 4 mL of dioxane was stirred overnight, diluted with ether and filtered. The filtrate was dried providing 4-(4-amino-naphthalen-1-yloxy)-pyran-2-one hydrochloride salt.

reactant | [4-(2-oxo-2H-pyran-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | 0.287 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OC1=CC(OC=C1)=O)=O | C20H19NO5
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 4-(4-amino-naphthalen-1-yloxy)-pyran-2-one hydrochloride salt | Cl.NC1=CC=C(C2=CC=CC=C12)OC1=CC(OC=C1)=O | InChI=1S/C15H11NO3.ClH/c16-13-5-6-14(12-4-2-1-3-11(12)13)19-10-7-8-18-15(17)9-10;/h1-9H,16H2;1H
